US05254732
4.8 milliliters KN(SiCH3)2 were dropped into 5 milliliters (C6H5)2CHCOOCH3 in tetrahydrofuran at -78° C. and the resulting yellow suspension was stirred for 45 minutes. 1.2 molar equivalents N-fluorobenzenesulfonimide prepared according to Example 1 above in 4 milliliters tetrahydrofuran were dropped into the mixture and stirring continued at -78° C. for 1 hour. The mixture was allowed to warm up to room temperature, quenched with ammonium chloride, and acidified with 0.1N hydrogen chloride. Extraction with dichloromethane, drying, and evaporation were followed by purification on a silica gel column. White crystalline (C6H5)2CFCOOCH3 was obtained in 82% yield.

reactant | (C6H5)2CHCOOCH3 | 5 milliliters | C(C1=CC=CC=C1)(C1=CC=CC=C1)C(=O)OC | C15H14O2
reactant | N-fluorobenzenesulfonimide | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 milliliters | O1CCCC1 | C4H8O
product | (C6H5)2CFCOOCH3 | 82% yield | C(F)(C1=CC=CC=C1)(C1=CC=CC=C1)C(=O)OC | C15H13FO2
